US08563575B2
3-Methyl-2-(methylsulfonyl)-3H-imidazo[4,5-b]pyridine (45 mg) was added to a solution of 1-ethyl-3-(4-hydroxyphenyl)-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridine-6-carbonitrile (61.5 mg) and NaH (9.0 mg) in DMF (1 mL) at room temperature. The mixture was heated at 180° C. for 30 min under microwave irradiation. The reaction mixture was diluted with MeOH and concentrated under reduced pressure. The residue was purified by column chromatography (NH silica gel, eluted with 0%-50% EtOAc in hexane) to give 1-ethyl-3-{4-[(3-methyl-3H-imidazo[4,5-b]pyridin-2-yl)oxy]phenyl}-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridine-6-carbonitrile (11 mg) as white crystals.

reactant | 3-Methyl-2-(methylsulfonyl)-3H-imidazo[4,5-b]pyridine | 45 mg | CN1C(=NC=2C1=NC=CC2)S(=O)(=O)C | C8H9N3O2S
reactant | 1-ethyl-3-(4-hydroxyphenyl)-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridine-6-carbonitrile | 61.5 mg | C(C)N1C(N(C2=NC=C(C=C21)C#N)C2=CC=C(C=C2)O)=O | C15H12N4O2
reactant | NaH | 9.0 mg | [H-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 1-ethyl-3-{4-[(3-methyl-3H-imidazo[4,5-b]pyridin-2-yl)oxy]phenyl}-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridine-6-carbonitrile | 11 mg | C(C)N1C(N(C2=NC=C(C=C21)C#N)C2=CC=C(C=C2)OC2=NC=1C(=NC=CC1)N2C)=O | C22H17N7O2
